US07273867B2
200 mg of 4-dimethylaminopyridine on polystyrene are added to a solution of 100 mg (0.339 mmol) of 2-[3-(5-methyl-1,2,4-oxadiazol-3-yl)phenoxy]pentanoyl chloride and 60.4 mg (0.339 mmol) of 4-morpholin-4-ylaniline in 6 ml of dichloromethane, and the mixture is stirred at room temperature for 18 hours. The reaction mixture is filtered, and the filtrate is evaporated, giving N-(4-morpholin-4-ylphenyl)-2-[3-(5-methyl-1,2,4-oxadiazol-3-yl)phenoxy]pentanoamide as a colourless solid, ESI 437.

reactant | 2-[3-(5-methyl-1,2,4-oxadiazol-3-yl)phenoxy]pentanoyl chloride | 0.339 mmol, 100 mg | CC1=NC(=NO1)C=1C=C(OC(C(=O)Cl)CCC)C=CC1 | C14H15ClN2O3
reactant | 4-morpholin-4-ylaniline | 0.339 mmol, 60.4 mg | N1(CCOCC1)C1=CC=C(N)C=C1 | C10H14N2O
catalyst | 4-dimethylaminopyridine | 200 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | N-(4-morpholin-4-ylphenyl)-2-[3-(5-methyl-1,2,4-oxadiazol-3-yl)phenoxy]pentanoamide | N1(CCOCC1)C1=CC=C(C=C1)NC(C(CCC)OC1=CC(=CC=C1)C1=NOC(=N1)C)=O | C24H28N4O4
